US08071591B2
A solution of (1R,3R)-3-(3-pyridyl)cyclopentanol (3.47 g, 21.3 mmol) in THF (100 mL) was cooled to 4° C. and treated with acetic acid (1.34 mL, 23.4 mmol), Diisopropylazodicarboxylate (4.61 mL, 23.4 mmol) and triphenylphosphine (6.14 g, 23.4 mmol). The reaction mixture was stirred at room temperature for 12 h. The reaction mixture was diluted with EtOAc, and washed with H2O and brine. The organic layers was dried over Na2SO4. After concentration under reduced pressure, the residue was purified by column chromatography (NH, Hexane/EtOAc=6/1) to yield (1S,3R)-3-(3-pyridyl)cyclopentyl acetate (4.39 g, 100%) as colorless oil.

reactant | (1R,3R)-3-(3-pyridyl)cyclopentanol | 21.3 mmol, 3.47 g | N1=CC(=CC=C1)[C@H]1C[C@@H](CC1)O | C10H13NO
reactant | acetic acid | 23.4 mmol, 1.34 mL | C(C)(=O)O | C2H4O2
reactant | Diisopropylazodicarboxylate | 23.4 mmol, 4.61 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 23.4 mmol, 6.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (1S,3R)-3-(3-pyridyl)cyclopentyl acetate | 4.39 g, 100% | C(C)(=O)O[C@@H]1C[C@@H](CC1)C=1C=NC=CC1 | C12H15NO2
